US07109218B2
2-Amino-4-[4-(2-hydroxyethoxy)phenyl]-6-{[(2-methyl-1,3-thiazol-4-yl)methyl]-sulphanyl}pyridine-3,5-dicarbonitrile
31.2 mg (0.1 mmol) of 2-amino-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanyl-pyridine-3,5-dicarbonitrile are dissolved in 0.3 ml of DMF. 33.6 mg (0.4 mmol) of sodium bicarbonate and 26.7 mg (0.15 mmol) of 4-methyl-2-chloro-1,3-thiazole hydrochloride are then added. The suspension is shaken at RT overnight, filtered, and purified by preparative HPLC [column: Macherey-Nagel VP 50/21 Nucleosil 100-5 C18 Nautilus, 20×50 mm; flow rate: 25 ml/min; gradient (A=acetonitrile, B=water+0.3% trifluoroacetic acid): 0 min 10% A; 2.0 min 10% A; 6.0 min 90% A; 7.0 min 90% A; 7.1 min 10% A; 8.0 min 10% A; detection: 220 nm]. Concentration of the appropriate fraction gives 20.2 mg (47.7% of theory) of product.

reactant | 2-amino-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanyl-pyridine-3,5-dicarbonitrile | 0.1 mmol, 31.2 mg | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)S | C15H12N4O2S
reactant | sodium bicarbonate | 0.4 mmol, 33.6 mg | C([O-])(O)=O.[Na+]
reactant | 4-methyl-2-chloro-1,3-thiazole hydrochloride | 0.15 mmol, 26.7 mg | Cl.CC=1N=C(SC1)Cl
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-[4-(2-hydroxyethoxy)phenyl]-6-{[(2-methyl-1,3-thiazol-4-yl)methyl]-sulphanyl}pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)SCC=1N=C(SC1)C | C20H17N5O2S2
